US06306892B1
As described in Example 1(c) for the preparation of N-(8-oxo-4-oxa-1,7-diaza-tricyclo[9.6. 1.012,17]octadeca-11 (18),12,14,16-tetraen-9-yl)-3-(3-phenyl-1H-pyrrol-1-yl)succinamic acid benzyl ester, 3 (R)-amino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid allyl ester trifluoroacetate salt and 3-[2-(4-cyanophenyl)-ethynyl]-2,5-dimethoxy-tetrahydrofuran were heated with trifluoroacetic acid (1 equiv) at 70° C. for 4 hours. Flash column chromatography twice with 0.5% HOAc/15% EtOAc/CH2Cl2 as eluant and azeotrope with n-heptane afforded 800 mg (36%, 43% based on recovered furan) of 3(R)-[3-[(4-cyanophenyl)acetyl]-1H-pyrrol-1-yl]-N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]succinamic acid allyl ester as a brown oil.

reactant | N-(8-oxo-4-oxa-1,7-diaza-tricyclo[9.6. 1.012,17]octadeca-11 (18),12,14,16-tetraen-9-yl)-3-(3-phenyl-1H-pyrrol-1-yl)succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(CC(C(=O)NC1C(NCCOCCN2C3=CC=CC=C3C(C1)=C2)=O)N2C=C(C=C2)C2=CC=CC=C2)=O | C36H36N4O5
reactant | (R)-amino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid allyl ester trifluoroacetate salt | FC(C(=O)O)(F)F.C(C=C)OC([C@@H](CC(=O)N[C@@H](C(C)(C)C)C(NC)=O)N)=O
reactant | 3-[2-(4-cyanophenyl)-ethynyl]-2,5-dimethoxy-tetrahydrofuran | C(#N)C1=CC=C(C=C1)C#CC1C(OC(C1)OC)OC | C15H15NO3
reactant | trifluoroacetic acid | 1 equiv | FC(C(=O)O)(F)F | C2HF3O2
solvent | n-heptane | CCCCCCC | C7H16
solvent | HOAc | CC(=O)O | C2H4O2
product | 3(R)-[3-[(4-cyanophenyl)acetyl]-1H-pyrrol-1-yl]-N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]succinamic acid allyl ester | 800 mg | C(C=C)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)N1C=C(C=C1)C(CC1=CC=C(C=C1)C#N)=O)=O | C27H32N4O5
